US05773428
(3R,10S)-5-Methyl-3-(9-oxo-1,8-diazatricyclo[10.6.1.013,18 ]nonadeca-12(19),13(18),14,16-tetraen-10-ylcarbamoyl)hexanoic acid (200 mg, 0.45 mmol) was dissolved in 10 mL of glacial acetic acid and was hydrogenated at 100 psi H2 pressure in the presence of Pt2O (60 mg) in a Parr reactor at room temperature for 15 hrs. Argon gas was bubbled into the reaction mixture for 15 mins. and the catalyst (Pt2 O) was filtered off (through a cone of celite). The clear filtrate was evaporated to dryness and further co-evaporated with toluene twice to give quantitative yield of (3R,10S)-5-methyl-3-(9-oxo-1,8-diazatricyclo[10.6.1.013,18 ]nonadecan-10-ylcarbamoyl)hexanoic acid as a white solid. MS: 448 (M-H)31 .

reactant | (3R,10S)-5-Methyl-3-(9-oxo-1,8-diazatricyclo[10.6.1.013,18 ]nonadeca-12(19),13(18),14,16-tetraen-10-ylcarbamoyl)hexanoic acid | 0.45 mmol, 200 mg | CC(C[C@H](CC(=O)O)C(N[C@@H]1C(NCCCCCCN2C=3C=CC=CC3C(C1)=C2)=O)=O)C | C25H35N3O4
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | (3R,10S)-5-methyl-3-(9-oxo-1,8-diazatricyclo[10.6.1.013,18 ]nonadecan-10-ylcarbamoyl)hexanoic acid | quantitative yield | CC(C[C@H](CC(=O)O)C(N[C@@H]1C(NCCCCCCN2C3CCCCC3C(C1)C2)=O)=O)C | C25H43N3O4
